US06175013B1
Preparation of 1-(2-methoxybenzyl)-2-[(4-phenyl-1-piperazinyl)methyl]-4-(1H-indol-3-ylmethyl)-2-imidazoline
A stirring solution of (RS) 1-[N-(2-methoxybenzyl)amino]-3-(1H-indol-3-yl)-2-[N-(2-((4-phenyl)piperazin-1-yl)acetyl)amino]propane (50 mg, 0.098 mmol), prepared as described in Preparation 4, supra, dissolved in 6 ml of 1,2-dichlorobenzene was heated to reflux under a nitrogen atmosphere. The solution was allowed to reflux overnight. The progress of the reaction was monitored by thin layer chromatography. The solution was then refluxed for an additional eight hours. The desired title product was then purified by chromatography. (Yield: 40.0 mg, 83%).

reactant | (RS) 1-[N-(2-methoxybenzyl)amino]-3-(1H-indol-3-yl)-2-[N-(2-((4-phenyl)piperazin-1-yl)acetyl)amino]propane | 0.098 mmol, 50 mg | COC1=C(CNCC(CC2=CNC3=CC=CC=C23)NC(CN2CCN(CC2)C2=CC=CC=C2)=O)C=CC=C1 | C31H37N5O2
solvent | 1,2-dichlorobenzene | 6 ml | ClC1=C(C=CC=C1)Cl | C6H4Cl2
product | 1-(2-methoxybenzyl)-2-[(4-phenyl-1-piperazinyl)methyl]-4-(1H-indol-3-ylmethyl)-2-imidazoline | COC1=C(CN2C(=NC(C2)CC2=CNC3=CC=CC=C23)CN2CCN(CC2)C2=CC=CC=C2)C=CC=C1 | C31H35N5O
